US05854277
Preparation of cis-Cyclopentane-1,2-dicarboxylic anhydride
To the trans-cyclopentane-1,2-dicarboxylic acid (1.16 g, 7.33 mmol) at room temperature, was added Acetic anhydride (10 mL, ex). The reaction mixture was refluxed at about 165° C. for 14 hrs. Workup consisted of concentration in vacuo and co-evaporation with toluene three times. The crude product (1.0 g, ~100%, with a little impurity of Acetic anhydride) was given as a brown oily solid.

reactant | trans-cyclopentane-1,2-dicarboxylic acid | 7.33 mmol, 1.16 g | [C@@H]1([C@@H](CCC1)C(=O)O)C(=O)O | C7H10O4
solvent | Acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
product | cis-Cyclopentane-1,2-dicarboxylic anhydride | [C@@H]12[C@@H](CCC1)C(=O)OC2=O | C7H8O3
